US04730006
Nα,Nε -di-t-butoxycarbonyl-δ-fluoro-ε-vinyllysyl-L-alanine t-butyl ester (52)
The compound 5-fluoro-2,6-di-tert-butoxycarbonylamino-7-octenoic acid, 26, prepared as in Example II above (636 mg, 1.63 mmoles), 1-hydroxybenzotriazole monohydrate (250 mg) and dry dichloromethane (30 mL) are stirred at room temperature for 15 minutes. After cooling to 0° C., dicyclohexylcarbodiimide (370 mg) is added and stirring is continued for 1 hour at 0° C. and for 2 hours at room temperature. After cooling to 0° C. again, L-alanine-tert-butylester, hydrochloride (296 mg) is added, followed by N-methylmorpholine (330 mg). The mixture is stirred for 1 hour at 0° C., then at room temperature overnight. Filtration, washing (NaHCO3, NaHSO4, water), drying (Na2SO4) and evaporation yields an oil. This oil is dissolved in dichloromethane, filtered and evaporated. This last procedure is repeated several times to completely remove the DCU, leaving the title compound as an oil, 800 mg (95%).

reactant | 5-fluoro-2,6-di-tert-butoxycarbonylamino-7-octenoic acid | FC(CCC(C(=O)O)NC(=O)OC(C)(C)C)C(C=C)NC(=O)OC(C)(C)C | C18H31FN2O6
reactant | 1-hydroxybenzotriazole monohydrate | 250 mg | O.ON1N=NC2=C1C=CC=C2
reactant | dicyclohexylcarbodiimide | 370 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | L-alanine-tert-butylester, hydrochloride | 296 mg | Cl.C(C)(C)(C)OC([C@@H](N)C)=O
reactant | N-methylmorpholine | 330 mg | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Nα,Nε -di-t-butoxycarbonyl-δ-fluoro-ε-vinyllysyl-L-alanine t-butyl ester | C(C)(C)(C)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CCC(C(NC(=O)OC(C)(C)C)C=C)F)=O)C)=O | C25H44FN3O7
